US08685977B2
tert-butyl 3-chloro-2,4-difluorobenzoate
di-tert-butyldicarbonate (1.64 g, 7.50 mmol) was added to a 10° C. solution of 3-chloro-2,4-difluorobenzoic acid (0.963 g, 5.00 mmol), triethylamine (2.09 mL, 15.0 mmol) and 4-dimethylaminopyridine (0.220 g, 1.80 mmol) in dichloromethane (9.3 mL). The reaction mixture was stirred at room temperature for 2 hours then diluted with water and extracted two times with dichloromethane. The organic phases were combined and the solvent removed in vacuo. The product was purified by silica gel column chromatography eluting with 0-20% hexanes to ethyl acetate to afford the title compound as a colorless oil (0.554 g).

reactant | di-tert-butyldicarbonate | 7.50 mmol, 1.64 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-chloro-2,4-difluorobenzoic acid | 5.00 mmol, 0.963 g | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
reactant | triethylamine | 15.0 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 1.80 mmol, 0.220 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 9.3 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 3-chloro-2,4-difluorobenzoate | 0.554 g | ClC=1C(=C(C(=O)OC(C)(C)C)C=CC1F)F | C11H11ClF2O2
